US07371743B2
(c) 4-(1,1-dioxo-isothiazolidin-2-yl)-3-methyl-benzoic acid
170 mg (0.63 mmol) methyl 4-(1,1-dioxo-isothiazolidin-2-yl)-3-methyl-benzoate are stirred in 2 ml of ethanol at ambient temperature for 3 hours with 0.6 ml of 2-molar sodium hydroxide solution. Then the reaction solution is evaporated down i. vac., combined with water and 0.6 ml 2-molar hydrochloric acid and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate, evaporated down i. vac. and the residue is further reacted without any more purification.

reactant | methyl 4-(1,1-dioxo-isothiazolidin-2-yl)-3-methyl-benzoate | 0.63 mmol, 170 mg | O=S1(N(CCC1)C1=C(C=C(C(=O)OC)C=C1)C)=O | C12H15NO4S
reactant | sodium hydroxide | 2-molar, 0.6 ml | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-(1,1-dioxo-isothiazolidin-2-yl)-3-methyl-benzoic acid | O=S1(N(CCC1)C1=C(C=C(C(=O)O)C=C1)C)=O | C11H13NO4S
